US07935815B2
Synthesis of tert-butyl N′-[(2S*,3R*)-5-hydroxy-3-methoxymethoxy-2-(3,4,5-trifluorophenyl)pentanoyl]hydrazinecarboxylate
TBAF (1.36 mL; 1 M solution in THF) was added to a solution of tert-butyl N′-[(2S*,3R*)-5-(tert-butyldiphenylsilanyloxy)-3-methoxymethoxy-2-(3,4,5-trifluorophenyl)pentanoyl]hydrazinecarboxylate (600 mg) in THF (10 mL). The reaction solution was stirred at room temperature for one hour. Then, ethyl acetate and a saturated ammonium chloride solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 383 mg of the title compound. The property value of the compound is as follows.

reactant | TBAF | 1 M, 1.36 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | tert-butyl N′-[(2S*,3R*)-5-(tert-butyldiphenylsilanyloxy)-3-methoxymethoxy-2-(3,4,5-trifluorophenyl)pentanoyl]hydrazinecarboxylate | 600 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@H]([C@@H](C(=O)NNC(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)F)F)OCOC | C34H43F3N2O6Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl N′-[(2S*,3R*)-5-hydroxy-3-methoxymethoxy-2-(3,4,5-trifluorophenyl)pentanoyl]hydrazinecarboxylate | 383 mg | OCC[C@H]([C@@H](C(=O)NNC(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)F)F)OCOC | C18H25F3N2O6
